US04174210
EXAMPLE 8--Preparation of beta-(N-chloroacetyl-2,6-dimethylphenylamino)propionaldehyde
An 8.6-g (0.076-mol) sample of chloroacetyl chloride was added dropwise to a solution of 16 g (0.06 mol) beta-2,6-dimethylphenylamino)propionaldehyde diethylacetal and 6 g (0.076 mol) pyridine in 60 ml ethyl acetate. A salt immediately precipitated. The reaction mixture was stirred at about 25° C. for about 18 hours. The reaction mixture was filtered and the filtrate was evaporated under reduced pressure to give an oil. The oil was mixed with 100 ml acetone, 25 ml water and about 0.5 g p-toluenesulfonic acid. The resulting solution was stirred for 2 hours at 25° C., diluted with water, and extracted with ethyl ether. The ether extracts were evaporated to give a pale yellow oil. The yellow oil was dissolved in dichloromethane, dried over magnesium sulfate, treated with silica, filtered and evaporated to give 12.3 g of an oil which partially crystallized to give the product. Infrared analysis showed amide carbonyl absorption at 6.0 micron and aldehyde carbonyl absorption at 5.8 micron. The product is tabulated in Table I as Compound No. 13-A.

reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
reactant | propionaldehyde diethylacetal | C(C)OC(CC)OCC | C7H16O2
reactant | pyridine | 0.076 mol, 6 g | N1=CC=CC=C1 | C5H5N
reactant | p-toluenesulfonic acid | about 0.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | 25 ml | O | H2O
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | beta-(N-chloroacetyl-2,6-dimethylphenylamino)propionaldehyde | 12.3 g | ClCC(=O)N(CCC=O)C1=C(C=CC=C1C)C | C13H16ClNO2
